US08022062B2
7-Chloro-6-(4-methoxycarbonyl-butylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 387 to react 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine with methyl-5-bromovalerate. Purify by preparative TLC eluting with 19:1 DCM/saturated ammonia in methanol. Use a method similar to the General Procedure 2-2 to give the title compound as a white solid. MS (APCI+) m/z: 328 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | methyl-5-bromovalerate | COC(CCCCBr)=O | C6H11BrO2
product | 7-Chloro-6-(4-methoxycarbonyl-butylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCCCCC(=O)OC | InChI=1S/C16H22ClNO2S.ClH/c1-20-15(19)4-2-3-11-21-16-13-8-10-18-9-7-12(13)5-6-14(16)17;/h5-6,18H,2-4,7-11H2,1H3;1H
